US06762205B1
The procedure of Example 40 was repeated, except that 3.58 g of 4-aminobenzonitrile was used in place of aniline, and 4.62 g of 4-hydroxybenzaldehyde was used in place of 4-formylphenyl sulfamate. The resulting crude product was purified by silica gel column chromatography (using a 39:1 mixture of chloroform and acetone as the eluent) to obtain 3.37 g of 4-[N-(4-hydroxybenzyl)amino]-benzonitrile.

reactant | 4-aminobenzonitrile | 3.58 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 4-hydroxybenzaldehyde | 4.62 g | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-[N-(4-hydroxybenzyl)amino]-benzonitrile | 3.37 g | OC1=CC=C(CNC2=CC=C(C#N)C=C2)C=C1 | C14H12N2O
